US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (228 mg) and 4-tert-butylbenzoyl chloride (234 μL), respectively, to provide crude 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine (433 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 228 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 4-tert-butylbenzoyl chloride | 234 μL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 1-(4-tert-butylbenzoyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 433 mg | C(C)(C)(C)C1=CC=C(C(=O)N2CCN(CC2)C2=C(C=C(C(=C2)F)OC)F)C=C1 | C22H26F2N2O2
